US06727264B1
6-CHLORO-1-(4-METHYLPHENYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 6-chloro-1H-indole and 1-iodo-4-methylbenzene: ESMS m/e: 241.9 (M+H)+.

reactant | 6-chloro-1H-indole | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | 1-iodo-4-methylbenzene | IC1=CC=C(C=C1)C | C7H7I
product | 6-CHLORO-1-(4-METHYLPHENYL)-1H-INDOLE | ClC1=CC=C2C=CN(C2=C1)C1=CC=C(C=C1)C | C15H12ClN
